US05356893
N-(4-Bromo-3-methylphenyl)methanesulphonamide
Methanesulphonyl chloride (0.88 ml) was added dropwise to a stirred solution of 4-bromo-3-methylbenzenamine (1.02 g) in pyridine (9 ml) under nitrogen at -10° to -14° C. After 2 h, aqueous (8%) sodium bicarbonate (35.6 ml) was added and the mixture extracted with ethyl acetate (3×100 ml). The combined, dried organic extracts were evaporated and the residue crystallized from ethyl acetate to give the title compound as a white powder (100 mg). The mother liquors were evaporated onto silica gel (Merck 7734, 3 ml) and the residue applied as a plug to a flash column of silica gel (Merck 9385). Elution with hexane:ethyl acetate (85:15) afforded a further sample of the title compound as a white solid (250 mg).

reactant | Methanesulphonyl chloride | 0.88 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-bromo-3-methylbenzenamine | 1.02 g | BrC1=C(C=C(C=C1)N)C | C7H8BrN
reactant | sodium bicarbonate | 35.6 ml | C([O-])(O)=O.[Na+]
solvent | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-Bromo-3-methylphenyl)methanesulphonamide | 100 mg | BrC1=C(C=C(C=C1)NS(=O)(=O)C)C | C8H10BrNO2S
